US04535091
12 g (0.075 mole) of N-(2-cyanoprop-2-ylsulphenyl)-N-methyl-carbamoyl fluoride are added dropwise to a mixture of 9.45 g (0.075 mole) of 4-hydroxy-1-isopropylpyrazole, 8.5 g (0.085 mole) of triethylamine and 100 ml of toluene at 25° C. When the addition has ended, the mixture is stirred at room temperature for 18 hours. For working up, the reaction mixture is washed twice with water, dried over sodium sulphate and freed from the solvent in vacuo. 18 g (85% of theory) of O-(1-isopropylpyrazol-4-yl) N-(2-cyanoprop-2-ylsulphenyl)-N-methyl-carbamate are obtained in the form of a yellow oil of refractive index nD21 1.5070.

reactant | N-(2-cyanoprop-2-ylsulphenyl)-N-methyl-carbamoyl fluoride | 0.075 mole, 12 g | C(#N)C(C)(C)SN(C(=O)F)C | C6H9FN2OS
reactant | 4-hydroxy-1-isopropylpyrazole | 0.075 mole, 9.45 g | OC=1C=NN(C1)C(C)C | C6H10N2O
reactant | triethylamine | 0.085 mole, 8.5 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | O-(1-isopropylpyrazol-4-yl) N-(2-cyanoprop-2-ylsulphenyl)-N-methyl-carbamate | 18 g, 85% | C(#N)C(C)(C)SN(C(OC=1C=NN(C1)C(C)C)=O)C | C12H18N4O2S
